US07115750B1
N-[6-[2-(1-Pyrrolidinyl)ethyl]-7,8-dihydro-2-naphthalenyl][1,1′-biphenyl]-4-carboxamide
Concentrated hydrochloric acid (2 ml) was added to N-[6-[2-(1-pyrrolidinyl)ethyl]-7,8-dihydro-2-naphthalenyl]acetamide (98.0 mg, 0.345 mmol) obtained in Reference Example 103, which was stirred at 100° C. for 16 hours. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. WSC (62.5 mg, 0.326 mmol) was added to a dimethylformamide solution (1.5 ml) of the resulting oily substance (79.0 mg, 0.326 mmol), [1,1′-biphenyl]-4-carboxylic acid (64.6 mg, 0.326 mmol) and DMAP (39.8 mg, 0.326 mmol) under ice-cooling, which was stirred at room temperature for 1 day. Ethyl acetate was added to the reaction mixture, washed with aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, then the solvent was distilled out under reduced pressure. The resulting residue was purified by aluminum column chromatography (development solvent; ethyl acetate), powdered with ethyl acetate and isopropyl ether (1:5), to give the titled compound (36.8 mg).

reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | N-[6-[2-(1-pyrrolidinyl)ethyl]-7,8-dihydro-2-naphthalenyl]acetamide | 0.345 mmol, 98.0 mg | N1(CCCC1)CCC1=CC=2C=CC(=CC2CC1)NC(C)=O | C18H24N2O
reactant | WSC | 0.326 mmol, 62.5 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | [1,1′-biphenyl]-4-carboxylic acid | 0.326 mmol, 64.6 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
catalyst | DMAP | 0.326 mmol, 39.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | N-[6-[2-(1-Pyrrolidinyl)ethyl]-7,8-dihydro-2-naphthalenyl][1,1′-biphenyl]-4-carboxamide | 36.8 mg | N1(CCCC1)CCC1=CC=2C=CC(=CC2CC1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C29H30N2O
